US07612075B2
4-(4-Aminoquinazolin-7-ylmethyl)-3-oxopiperazine-1-carboxylic acid (5-chloro-thiophen-2-ylmethyl)amide
To a solution of (5-chloro-thiophen-2-yl)-acetic acid (0.18 g, 1.04 mmol), prepared as described in EXAMPLE 27 in 6 mL of dry CH2Cl2 is added Et3N (0.15 mL g, 1.04 mmol) and diphenylphosphoryl azide (0.24 mL, 1.04 mmol). The mixture is stirred at room temperature for 2.5 h, then heated at 50° C. for 2 hours. To the solution is added 1-(4-aminoquinazoline-7-ylmethyl)piperazine-2-one (0.10 g, 0.41 mmol), EXAMPLE 72, and Et3N (0.15 mL g, 1.04 mmol) and the mixture is heated at 50° C. for 2 h, then stirred at room temperature for 16 hours. The resulting mixture is concentrated. The crude product is purified by RP-HPLC eluting in a gradient of 10% CH3CN/H2O (0.1% TFA) to 60% CH3CN/H2O (0.1% TFA) and the appropriate product fractions are combined and lyopholized to provide the title compound (10 mg, 0.02 mmol) as a white solid. 1H NMR (d6-DMSO, 300 MHz) δ9.69 (bs, 2H), 8.80 (s, 1H), 8.48 (d, 1H), 7.61 (d, 1H), 7.60 (s, 1H), 7.41 (t, 1H), 6.90 (d, 1H), 6.80 (d, 1H), 4.77 (d, 2H), 4.30 (d, 2H), 4.10 (s, 2H), 3.61 (m, 2H), 3.38 (m, 2H). ESI MS, [M+H]+=431,433 (Cl pattern).

reactant | (5-chloro-thiophen-2-yl)-acetic acid | 1.04 mmol, 0.18 g | ClC1=CC=C(S1)CC(=O)O | C6H5ClO2S
reactant | Et3N | 1.04 mmol, 0.15 mL | CCN(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 1.04 mmol, 0.24 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 1-(4-aminoquinazoline-7-ylmethyl)piperazine-2-one | 0.41 mmol, 0.10 g | NC1=NC=NC2=CC(=CC=C12)CN1C(CNCC1)=O | C13H15N5O
reactant | Et3N | 1.04 mmol, 0.15 mL | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 6 mL | C(Cl)Cl | CH2Cl2
product | 4-(4-Aminoquinazolin-7-ylmethyl)-3-oxopiperazine-1-carboxylic acid (5-chloro-thiophen-2-ylmethyl)amide | 0.02 mmol, 10 mg | ClC1=CC=C(S1)CNC(=O)N1CC(N(CC1)CC1=CC=C2C(=NC=NC2=C1)N)=O | C19H19ClN6O2S
